US06538007B1
To a mixture of N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine (3.0 g) in dimethylformamide (60 ml) was added NaHCO3 (2.05 g) at −2° C., and a solution of benzyl bromide in dimethylformamide (60 ml) was added by using a dropping funnel under stirring. The mixture was stirred overnight around 26° C., then poured into a mixture of ice-water (300 ml) and hexane-ethyl acetate (8:2, 500 ml). After the organic layer was separated, the aqueous layer was extracted again with hexane-ethyl acetate (8:2, 300 ml). The combined organic layer was washed with water (300 ml×2), brine (300 ml) and dried over Na2SO4, and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with hexane-ethyl acetate (8:2) to give N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine benzyl ester (3.68 g).

reactant | N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine | 3.0 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)NC(C)=O | C10H18N2O5
reactant | NaHCO3 | 2.05 g | C(=O)(O)[O-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexane ethyl acetate | 500 ml | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine benzyl ester | 3.68 g | C(C1=CC=CC=C1)OC([C@H](CNC(=O)OC(C)(C)C)NC(C)=O)=O | C17H24N2O5
